US08071584B2
5-[6-(Dimethylamino)-3-pyridinyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
[6-(Dimethylamino)-3-pyridinyl]boronic acid (34 mg, 0.202 mmol), 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (75 mg, 0.202 mmol) and potassium carbonate (84 mg, 0.606 mmol) were suspended in 4 mL of dioxane:water (3:1) and degassed for a few minutes with nitrogen gas. Pd(PPh3)4 (23 mg) was then added and the reaction mixture was heated in a microwave oven at 150° C. for 40 minutes on ‘high’ absorption setting. After heating, LCMS of all crude reaction mixtures showed the desired m/z with few impurities. The crude reaction mixtures were filtered through 500 mg Stratospheres SPE Thiol cartridges eluting with 10 mL methanol/DCM (1:1) and concentrated. The residues were dissolved in DMSO (˜3 mL) and purified via RP-HPLC using an XBridge Prep C18 column with water/acetonitrile (0.1% NH4OH buffer). The desired fractions were concentrated, giving 0.029 g (34.8%) of the title compound.

reactant | [6-(Dimethylamino)-3-pyridinyl]boronic acid | 0.202 mmol, 34 mg | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.202 mmol, 75 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | potassium carbonate | 0.606 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane water | 4 mL | O1CCOCC1.O
product | 5-[6-(Dimethylamino)-3-pyridinyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.029 g, 34.8% | CN(C1=CC=C(C=N1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O)C | C21H24N4O3S
